US07196102B2
Step 5) 1-(1-Methyl-1H-indol-4-yl)-ethylamine:
The title compound was prepared by the same procedure for preparing 1-pyridin-3-yl-ethylamine from 1-(1-methyl-1H-indol-4-yl)-ethanone (1.75 g, 10 mmol), 2 M ammonia solution in methyl alcohol (25 mL, 50 mmol, Aldrich), acetic acid (15 mL, J. T. Baker) and sodium cyanoborohydride (2.5 g, 40 mmol, Aldrich). The title compound was purified by column chromatography (silica gel, 2 M ammonia solution in methyl alcohol/ethyl acetate 1/10) in form as light yellow oil in 48% yield (0.83 g, 4.8 mmol).

reactant | 1-pyridin-3-yl-ethylamine | N1=CC(=CC=C1)C(C)N | C7H10N2
reactant | 1-(1-methyl-1H-indol-4-yl)-ethanone | 10 mmol, 1.75 g | CN1C=CC2=C(C=CC=C12)C(C)=O | C11H11NO
reactant | ammonia | 2 M | N | H3N
reactant | methyl alcohol | 50 mmol, 25 mL | CO | CH4O
reactant | sodium cyanoborohydride | 40 mmol, 2.5 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 1-(1-Methyl-1H-indol-4-yl)-ethylamine | 48% yield | CN1C=CC2=C(C=CC=C12)C(C)N | C11H14N2
